US06172076B2
Preparation of 4-[5-(4-Oxo-1-phenyl-1,3,8-triazaspiro[4.5]-dec-8-ylmethyl)imidazol-1-ylmethyl]benzonitrile
A solution of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (230 mg, 1 mmol), 1-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt (265 mg, 1 mmol), and diisopropylethylamine (0.52 mL, 3 mmol) in anhydrous acetonitrile (5 mL) was stirred at room temp. for 2 days. The resulting mixture was concentrated under vacuum, and the residue was subjected to column chromatography on silica gel eluting with 5% methanol in ethyl acetate. The appropriate fractions were collected and concentrated. The residue was triturated with diethyl ether, and the white solid precipitated was collected by filtration to provide the title compound.

reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1 mmol, 230 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | 1-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt | 1 mmol, 265 mg | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCl)C=C1
reactant | diisopropylethylamine | 3 mmol, 0.52 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-[5-(4-Oxo-1-phenyl-1,3,8-triazaspiro[4.5]-dec-8-ylmethyl)imidazol-1-ylmethyl]benzonitrile | O=C1NCN(C12CCN(CC2)CC2=CN=CN2CC2=CC=C(C#N)C=C2)C2=CC=CC=C2 | C25H26N6O
